US09024018B2
2-(3-Methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1, 2, 3, 5]tetrazin-8-yl)thiazole-4-carboxamide (WW-007)
To a solution of 3-(imino(3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)methylthio)-2-oxopropanoic acid (0.700 g; 2.5 mmol) in dry THF (30 mL) under nitrogen was added isobutyl chloroformate (0.50 mL; 3.8 mmol), followed by triethylamine (0.53 mL; 3.8 mmol). The mixture was stirred for 1 hour, and then ammonia solution (0.5 M in dioxane; 20 mL) was added, and stirring continued for a further 3 hours. The precipitate was filtered, washed with water (5×20 mL) and diethyl ether (2×15 mL) to yield the title compound as a pale yellow solid (0.223 g; 40%). δH (DMSO-d6) 8.94 (1H, s), 8.42 (1H, s), 7.74 (1H, bs), 7.59 (1H, bs), 3.89 (3H, s).

reactant | 3-(imino(3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)methylthio)-2-oxopropanoic acid | 2.5 mmol, 0.700 g | N=C(SCC(C(=O)O)=O)C=1N=CN2C1N=NN(C2=O)C | C9H8N6O4S
reactant | isobutyl chloroformate | 3.8 mmol, 0.50 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 3.8 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
reactant | ammonia | 0.5 M, 20 mL | N | H3N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(3-Methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1, 2, 3, 5]tetrazin-8-yl)thiazole-4-carboxamide | 0.223 g, 40% | CN1N=NC=2N(C1=O)C=NC2C=2SC=C(N2)C(=O)N | C9H7N7O2S
